US09062055B2
Step 6. 1-[3-Bromo-1-(3-fluorophenyl)-1H-indol-2-yl]ethanamine
Hydrogen chloride (4.0 M) in 1,4-dioxane (1.2 mL, 4.8 mmol) was added to a solution of tert-butyl {1-[3-bromo-1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate (0.15 g, 0.35 mmol) in 1,4-dioxane (2.0 mL) The reaction was stirred at room temperature for 2 hours. The mixture was diluted with EtOAc, washed with saturated NaHCO3 solution, dried over MgSO4 and concentrated to give the crude product (0.12 g). LCMS calculated for C16H12BrFN (M-NH2)+: m/z=316.0. Found: 316.0.

reactant | Hydrogen chloride | 4.0 M | Cl | ClH
reactant | tert-butyl {1-[3-bromo-1-(3-fluorophenyl)-1H-indol-2-yl]ethyl}carbamate | 0.35 mmol, 0.15 g | BrC1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(C)NC(OC(C)(C)C)=O | C21H22BrFN2O2
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 4.8 mmol, 1.2 mL | O1CCOCC1 | C4H8O2
product | 1-[3-Bromo-1-(3-fluorophenyl)-1H-indol-2-yl]ethanamine | 0.12 g | BrC1=C(N(C2=CC=CC=C12)C1=CC(=CC=C1)F)C(C)N | C16H14BrFN2
